US08748626B2
To a solution of (R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropan-1-amine (140 mg, 0.378 mmol) in CH2Cl2 (7.0 mL) was added NaBH(OAc)3 (400 mg, 1.89 mmol). To this solution, the crude (3R,4S)-benzyl 3-fluoro-4-formylpyrrolidine-1-carboxylate (obtained from 2.0 equiv. of (3R,4R)-benzyl 3-fluoro-4-vinylpyrrolidine-1-carboxylate) in CH2Cl2 (1.0 mL) was added over 3 minute at room temperature. After stirred for 20 min, the reaction mixture was quenched with saturated NaHCO3 solution and extracted with EtOAc. The organic layer was washed with water and brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude product was purified on preparative reverse phase HPLC. The combined fractions of the product were neutralized with saturated NaHCO3 solution, which was then extracted with EtOAc. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield (3R,4R)-benzyl 3-(((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropylamino)methyl)-4-fluoropyrrolidine-1-carboxylate (138 mg, 60%). LC/MS (uplc) MH+ 608.3, 1.14 min.

reactant | (R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropan-1-amine | 0.378 mmol, 140 mg | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)[C@@H](C(C)(C)C)N | C21H22F2N2S
reactant | NaBH(OAc)3 | 1.89 mmol, 400 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | (3R,4S)-benzyl 3-fluoro-4-formylpyrrolidine-1-carboxylate | 2.0 equiv. | F[C@H]1CN(C[C@H]1C=O)C(=O)OCC1=CC=CC=C1 | C13H14FNO3
solvent | CH2Cl2 | 7.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (3R,4R)-benzyl 3-(((R)-1-(5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)-2,2-dimethylpropylamino)methyl)-4-fluoropyrrolidine-1-carboxylate | 138 mg, 60% | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)[C@@H](C(C)(C)C)NC[C@@H]1CN(C[C@@H]1F)C(=O)OCC1=CC=CC=C1 | C34H36F3N3O2S
